US07238706B2
Step 1: tert-Butyl (2E)-3-(4-bromophenyl)-2-cyanoprop-2-enoate
A mixture of 4-bromobenzaldehyde (1 eq), t-butyl cyanoacetate (1 eq) and NH4OAc (1 eq) in benzene (1M) was reflux for 4 h while removing water with a Dean-Stark trap. The mixture was cooled to rt, diluted with hexane and triturated. The title compound was isolated after filtration as a white solid.

reactant | 4-bromobenzaldehyde | 1 eq | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | t-butyl cyanoacetate | 1 eq | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
solvent | benzene | 1M | C1=CC=CC=C1 | C6H6
product | tert-Butyl (2E)-3-(4-bromophenyl)-2-cyanoprop-2-enoate | BrC1=CC=C(C=C1)/C=C(/C(=O)OC(C)(C)C)\C#N | C14H14BrNO2
